US05451566
A solution of 1-(2-chloro-4-trifluoromethylphenyl)-pyrrolo[3,2-c]pyridine 5-oxide (3.5 g, 12 mmol) in triethylamine (50 ml) was cooled in an ice-bath and trimethylsilyl cyanide (10.7 ml, 80 mmol) added dropwise. The ice-bath was removed and the mixture stirred for 5 hours. The precipitate was collected and dried to afford 1-(2-chloro-4-trifluoromethylphenyl)pyrrolo[3,2-c]pyridine (1.8g) as a colorless solid, m.p. 160°-161° C.

reactant | 1-(2-chloro-4-trifluoromethylphenyl)-pyrrolo[3,2-c]pyridine 5-oxide | 12 mmol, 3.5 g | ClC1=C(C=CC(=C1)C(F)(F)F)N1C=CC=2C=[N+](C=CC21)[O-] | C14H8ClF3N2O
reactant | trimethylsilyl cyanide | 80 mmol, 10.7 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | 1-(2-chloro-4-trifluoromethylphenyl)pyrrolo[3,2-c]pyridine | 1.8g | ClC1=C(C=CC(=C1)C(F)(F)F)N1C=CC=2C=NC=CC21 | C14H8ClF3N2
